US05071999
f) Ethyl 2,7-diazabicyclo[3.3.0]octane-7-carboxylate
21.2 g (77.3 mmol) of ethyl 2-benzyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate in 400 ml of ethanol are hydrogenated at 100° C. and 100 bar on 3 g of palladium-active carbon (10% Pd). The catalyst is filtered off, the filtrate is concentrated and the residue is distilled.

reactant | ethyl 2-benzyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | 77.3 mmol, 21.2 g | C(C1=CC=CC=C1)N1C2CN(CC2CC1)C(=O)OCC | C16H22N2O2
solvent | ethanol | 400 ml | C(C)O | C2H6O
catalyst | palladium | 3 g | [Pd] | Pd
product | Ethyl 2,7-diazabicyclo[3.3.0]octane-7-carboxylate | C12NCCC2CN(C1)C(=O)OCC | C9H16N2O2
